US04861872
(1) Isocyanating 4-t-butylaniline
While carbon tetrachloride was refluxed, fuming sulfuric acid was added dropwise to evolve phosgene. When the atmosphere in the apparatus was replaced sufficiently with phosgene, a 4-t-butylaniline toluene solution (containing 6.00 g of 4-t-butylaniline in 250 ml of toluene) was added dropwise and the temperature was gradually elevated to allow the reaction to proceed while the toluene was refluxed. Yield: 5.61 g (79.6%).

reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 4-t-butylaniline toluene | 250 ml, 6.00 g | C1(=CC=CC=C1)C.C(C)(C)(C)C1=CC=C(N)C=C1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-t-butylaniline | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
